US04791225
3-Bromo-2-chloro-4,5-difluorobenzenediazonium tetrafluoroborate
To a suspension of 3-bromo-2-chloro-4,5-difluoroaniline (30.1 g) in 42% fluoroboric acid (180 ml) with stirring vigorously was added sodium nitrite (12 g) in water (30 ml) at -9° to 1° C. for 40 minutes. After stirred for 1.5 hours, the resulting precipitate was collected by filtration and washed with 42% fluoroboric acid and then with ether to give the title compound (35.6 g) as light yellow needles, mp>300° C.

reactant | 3-bromo-2-chloro-4,5-difluoroaniline | 30.1 g | BrC=1C(=C(N)C=C(C1F)F)Cl | C6H3BrClF2N
reactant | sodium nitrite | 12 g | N(=O)[O-].[Na+]
reactant | fluoroboric acid | 180 ml | F[B-](F)(F)F.[H+]
solvent | water | 30 ml | O | H2O
product | 3-Bromo-2-chloro-4,5-difluorobenzenediazonium tetrafluoroborate | 35.6 g | F[B-](F)(F)F.BrC=1C(=C(C=C(C1F)F)[N+]#N)Cl | InChI=1S/C6HBrClF2N2.BF4/c7-4-5(8)3(12-11)1-2(9)6(4)10;2-1(3,4)5/h1H;/q+1;-1
